US09238644B2
(b) tert-Butyl 4-(5-((4-(2-(1-(methoxycarbonyl)cyclopropyl)phenethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)pyridin-2-yl)piperidine-1-carboxylate (A11)
A suspension of tert-butyl 4-(5-((4-((2-(1-(methoxycarbonyl)cyclopropyl)phenyl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)pyridin-2-yl)piperidine-1-carboxylate (A10) (134 mg, 0.216 mmol), 10% Pd/C (100 mg) and Et3N (1.0 mL) in DMF (10 mL) was stirred under an atmosphere of hydrogen for 16 hours. The resulting mixture was diluted with EtOAc (60 mL) and filtered through Celite. The filtrate was evaporated in vacuo and the resulting residue was adsorbed onto silica gel and purified by column chromatography (Biotage Isolera, 24 g SiO2 cartridge, 10-50% EtOAc in petroleum benzine 40-60° C.) to give the title compound A11 as a colourless oil (117 mg, 87%); 1H NMR (400 MHz, CDCl3) δ 8.65 (d, J=2.6 Hz, 1H), 8.57 (s, 1H), 8.15 (dd, J=8.5, 2.7 Hz, 1H), 7.45 (s, 1H), 7.34-7.27 (m, 3H), 7.24-7.15 (m, 2H), 4.26 (s, 2H), 3.60 (s, 3H), 3.22-3.07 (m, 4H), 2.92-2.76 (m, 3H), 1.92 (d, J=11.4 Hz, 2H), 1.79-1.65 (m, 4H), 1.48 (s, 9H), 1.22-1.18 (m, 2H). LCMS-A: rt 5.971 min; m/z 626 [M+H]+.

reactant | tert-butyl 4-(5-((4-((2-(1-(methoxycarbonyl)cyclopropyl)phenyl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)pyridin-2-yl)piperidine-1-carboxylate | 0.216 mmol, 134 mg | COC(=O)C1(CC1)C1=C(C=CC=C1)C#CC1=NC(=NC=C1C(F)(F)F)NC=1C=CC(=NC1)C1CCN(CC1)C(=O)OC(C)(C)C | C33H34F3N5O4
reactant | Et3N | 1.0 mL | CCN(CC)CC | C6H15N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 60 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | tert-Butyl 4-(5-((4-(2-(1-(methoxycarbonyl)cyclopropyl)phenethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)pyridin-2-yl)piperidine-1-carboxylate | COC(=O)C1(CC1)C1=C(CCC2=NC(=NC=C2C(F)(F)F)NC=2C=CC(=NC2)C2CCN(CC2)C(=O)OC(C)(C)C)C=CC=C1 | C33H38F3N5O4
